US08377968B2
Synthesis of N-((1-(2-(cyclopentylamino)-2-oxoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (Compound 93)
A solution of 2-(4-((3,5-bis(trifluoromethyl)benzamido)methyl)piperidin-1-yl)acetic acid (73 mg, 0.18 mmol), TEA (123 μL, 0.88 mmol), and cyclopentylamine (30 mg, 0.35 mmol) in DMF (1 mL) was treated with a solution of HATU (100 mg, 0.26 mmol) in DMF (1 mL). The reaction mixture was stirred overnight then transferred to a test tube containing saturated aqueous NaHCO3 (4 mL) and EtOAc (4 mL). The biphasic mixture was mixed vigourously and allowed to separate for 15 min. After separation, the mixture was cooled to −20° C. until the aqueous layer was frozen. The organic layer was then poured off and the solvent was removed under reduced pressure at 50° C. The resulting residue was purified by HiTOPs.

reactant | 2-(4-((3,5-bis(trifluoromethyl)benzamido)methyl)piperidin-1-yl)acetic acid | 0.18 mmol, 73 mg | FC(C=1C=C(C(=O)NCC2CCN(CC2)CC(=O)O)C=C(C1)C(F)(F)F)(F)F | C17H18F6N2O3
reactant | cyclopentylamine | 0.35 mmol, 30 mg | C1(CCCC1)N | C5H11N
reactant | HATU | 0.26 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 4 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
product | N-((1-(2-(cyclopentylamino)-2-oxoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | C1(CCCC1)NC(CN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C22H27F6N3O2
